US05977141
(S)-2-{4-[-4-(3-Methoxy-phenyl)-piperazin-1-yl]-benzenesulfonylamino}-3-phenyl-propionic acid
In a manner similar to Example 3(b), (S)-2-(4-fluoro-benzenesulfonylamino)-propionic acid, sodium salt and 4-(3-methoxy-phenyl)-piperazine were condensed to give the title compound as a pale red-brown solid, mp=137-139° C.

reactant | (S)-2-(4-fluoro-benzenesulfonylamino)-propionic acid | FC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)C | C9H10FNO4S
reactant | sodium | [Na] | Na
reactant | 4-(3-methoxy-phenyl)-piperazine | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
product | (S)-2-{4-[-4-(3-Methoxy-phenyl)-piperazin-1-yl]-benzenesulfonylamino}-3-phenyl-propionic acid | COC=1C=C(C=CC1)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C26H29N3O5S
